US03952001
A solution of 0.03 mole of 3-(2-methoxyethylsulphonyl)-1,2,4-triazole, 6 ml. of triethylamine and 0.033 mole of N-ethyl-N-isopropylcarbamoyl chloride in 40 ml. of dry tetrahydrofuran was heated under reflux for 15 hours. The cooled reaction mixture was filtered to remove triethylamine hydrochloride and the filtrate was evaporated to remove solvent. The product crystallized on cooling and treatment with 100 ml. of petroleum ether (b.p. 62°-68°C). This solid was collected and recrystallized from 100 ml. benzene/ petroleum ether (b.p. 40°-60°C) to give 1-(N-ethyl-N-isopropylcarbamoyl)-3-(2-methoxyethylsulphonyl)-1,2,4-triazole, m.p. 64°-65°C. Elemental analysis satisfactory.

reactant | 3-(2-methoxyethylsulphonyl)-1,2,4-triazole | 0.03 mole | COCCS(=O)(=O)C1=NNC=N1 | C5H9N3O3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | N-ethyl-N-isopropylcarbamoyl chloride | 0.033 mole | C(C)N(C(=O)Cl)C(C)C | C6H12ClNO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(N-ethyl-N-isopropylcarbamoyl)-3-(2-methoxyethylsulphonyl)-1,2,4-triazole | C(C)N(C(=O)N1N=C(N=C1)S(=O)(=O)CCOC)C(C)C | C11H20N4O4S
